US07402581B2
1-(Diphenylmethyl)azetidin-3-yl methanesulfonate (see J. Org. Chem.; 56; 1991; 6729; 310 mg, 0.98 mmol) was dissolved in acetonitrile (3.5 mL). Pyrrolidin-3-ol (104 mg, 1.2 mmol) and triethylamine (124 mg, 1.2 mmol) were added and the mixture was subjected to microwave single node heating for 10 minutes. The solvent was removed by evaporation and the residue was dissolved in ethyl acetate. The solution was washed with water, dried over MgSO4 and then the solvent was evaporated. There was obtained 280 mg (93%) of 1-[1-(diphenylmethyl)azetidin-3-yl]pyrrolidin-3-ol as an oil. 1H NMR (300 MHz, CDCl3): 1.6-1.8 (m, 1H), 2.1-2.3 (m, 2H), 2.4-2.6 (m, 2H), 2.6-2.8 (m, 1H), 2.9-3.0 (m, 2H), 3.1-3.2 (m, 1H), 3.3-3.4 (m, 2H), 4.3 (m, 1H), 4.4 (s, 1H), 7.1-7.5 (m, 10H); LCMS: m/z 309 (M+1)+.

reactant | 1-(Diphenylmethyl)azetidin-3-yl methanesulfonate | 0.98 mmol, 310 mg | CS(=O)(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19NO3S
reactant | Pyrrolidin-3-ol | 1.2 mmol, 104 mg | N1CC(CC1)O | C4H9NO
reactant | triethylamine | 1.2 mmol, 124 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 1-[1-(diphenylmethyl)azetidin-3-yl]pyrrolidin-3-ol | 280 mg, 93% | C1(=CC=CC=C1)C(N1CC(C1)N1CC(CC1)O)C1=CC=CC=C1 | C20H24N2O
